US08084620B2
Step 4 A solution of 2′-fluoro-3-hydrazinylbiphenyl-4-carboxylic acid (0.306 g, 1.24 mmol) and cyclohexanone (0.183 g, 1.86 mmol) in acetic acid (6.2 mL) was heated at reflux under nitrogen for 2 h. The mixture was cooled to rt and concentrated. The residue was partitioned between EtOAc and 1 M hydrochloric acid. The organic layer was washed with brine, dried and concentrated. The residue was triturated with EtOAc and DCM to give 5-(2-fluorophenyl)-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid (0.132 g) as a white solid. The filtrate was purified by column chromatography (eluting with a gradient from hexane to 50:50 EtOAc-hexane) to give additional product (0.029 g, 41% total). 1H NMR (400 MHz, DMSO-d6) δ 12.95 (br s, 1H), 10.79 (s, 1H), 7.68 (d, J=7.15, 1H), 7.42-7.51 (m, 1H), 7.24-7.34 (m, 3H), 6.87 (d, J=7.15, 1H), 2.67-2.82 (m, 2H), 1.89-2.10 (m, 2H), 1.65-1.81 (m, 2H), 1.44-1.63 (m, 2H). Mass spectrum m/z 310.1 (M+H)+.

reactant | 2′-fluoro-3-hydrazinylbiphenyl-4-carboxylic acid | 1.24 mmol, 0.306 g | FC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)O)NN | C13H11FN2O2
reactant | cyclohexanone | 1.86 mmol, 0.183 g | C1(CCCCC1)=O | C6H10O
solvent | acetic acid | 6.2 mL | C(C)(=O)O | C2H4O2
product | 5-(2-fluorophenyl)-2,3,4,9-tetrahydro-1H-carbazole-8-carboxylic acid | 0.132 g | FC1=C(C=CC=C1)C1=C2C=3CCCCC3NC2=C(C=C1)C(=O)O | C19H16FNO2
